US05686482
A 0.90 g portion of sodium sulfite and 1.81 g of sodium bicarbonate were dissolved in 6 ml of water, and 2.00 g of 5-chlorosulfonyl-2,4-dimethoxybenzoic acid was added thereto, followed by 1 hour stirring. Next, 1.50 g of bromoacetic acid was added, followed by stirring at 75° C. After completion of the reaction, the reaction solution was poured into cool water, and the thus precipitated product of interest was collected by filtration, washed with water and then dried under a reduced pressure to give 2,4-dimethoxy-5-methylsulfonylbenzoic acid, which was used in the next reaction without purification.

reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 1.81 g | C([O-])(O)=O.[Na+]
reactant | 5-chlorosulfonyl-2,4-dimethoxybenzoic acid | 2.00 g | ClS(=O)(=O)C=1C(=CC(=C(C(=O)O)C1)OC)OC | C9H9ClO6S
reactant | bromoacetic acid | 1.50 g | BrCC(=O)O | C2H3BrO2
solvent | water | 6 ml | O | H2O
product | 2,4-dimethoxy-5-methylsulfonylbenzoic acid | COC1=C(C(=O)O)C=C(C(=C1)OC)S(=O)(=O)C | C10H12O6S
